US05208250
5-[(4-Methoxyphenyl)methylene]-3-methyl-2,4-imidazolidinedione
Prepared according to the procedure described in Example 93 using 4-methoxybenzaldehyde (3.4 g, 25 mmoles) and 3-methyl hydantoin (3.0 g, 21 mmoles). Recrystallization from acetonitrile gave the pure product (2.0 g), mp 221°-222° C.

reactant | 4-methoxybenzaldehyde | 25 mmoles, 3.4 g | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | 3-methyl hydantoin | 21 mmoles, 3.0 g | CN1C(NCC1=O)=O | C4H6N2O2
product | 5-[(4-Methoxyphenyl)methylene]-3-methyl-2,4-imidazolidinedione | 2.0 g | COC1=CC=C(C=C1)C=C1C(N(C(N1)=O)C)=O | C12H12N2O3
